US06110962
5-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxymethyl]-1 H-tetrazole
Trimethylaluminum (2.55 mL, 3.84mmol, 2.0 M solution in toluene) was added to [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetonitrile (0.615 g, 1.02 mmol) under a dry nitrogen atmosphere. Trimethylsilyl azide (0.510 mL, 3.84 mmol) was then added and the solution was heated in a 80° C. oil bath. After 16.5 h the reaction mixture was cooled to room temperature and water was cautiously added. The mixture was partitioned between dilute aqueous HCl and ethyl acetate. The layers were separated and the 2% phosphoric acid in methanol washed silica gel was added to the organic phase. The solvent was removed and the adsorbate was flashed using 2% phosphoric acid in methanol washed silica gel (eluent:gradient: 4:1 to 7:3 petroleum ether:ethyl acetate) to provide the title compound as a white solid, which was recrystallized from cyclohexane (0.365 g, 55%): mp 243-245° C.: NMR (DMSO-d6); δ8.29 (d, J=8 Hz, 1H), 8.09 (d, J=8 Hz, 1 H), 7.89 (s, 2 H), 7.80 (ddd, J =8, 7, 1 Hz, 1 H), 7.66-7.57 (m, 2 H), 7.55 (ddd, J=8, 7, 1 Hz, 1 H), 7.40 (ddd, J=8, 7, 1 Hz, 1 H), 6.71 (d, J=8 Hz, 1 H), 5.64 (s, 2 H), 1.34 (cyclohexane, 0.3 mole eq); MS (EI): [M+], 3 bromine isotope pattern, 642, 644, 646, 648; Anal. Calc. for C24H13Br3N40S.0.33 C6 H12: C, 46.39, H, 2.55, N, 8.32. Found: C, 46.28, H, 2.43, N, 7.90.

reactant | Trimethylaluminum | 3.84mmol, 2.0 M, 2.55 mL | C[Al](C)C
reactant | [2,6-dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxy]-acetonitrile | 1.02 mmol, 0.615 g | BrC1=C(OCC#N)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C24H12Br3NOS
reactant | Trimethylsilyl azide | 3.84 mmol, 0.510 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | water | O | H2O
product | 5-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenoxymethyl]-1 H-tetrazole | BrC1=C(OCC2=NN=NN2)C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br | C24H13Br3N4OS
